US07531545B2
To a stirred solution of 1-benzyl-1H-[1,2,4]triazole-3-carboxylic acid methyl ester (4.11 g) in THF (30 mL) in methanol (30 mL), was added sodium hydroxide solution (1.0 N, 28 mL, 28 mmol). The solution was stirred at room temperature for 3 hours. The organic solvents were removed by evaporation. The aqueous phase washed with diethyl ether one time. The aqueous solution was acidified by adding 2 N HCl and then filtered to yield 1-benzyl-1H-[1,2,4]triazole-3-carboxylic acid as a white solid.

reactant | 1-benzyl-1H-[1,2,4]triazole-3-carboxylic acid methyl ester | 4.11 g | COC(=O)C1=NN(C=N1)CC1=CC=CC=C1 | C11H11N3O2
reactant | sodium hydroxide | 28 mmol, 1.0 N, 28 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
product | 1-benzyl-1H-[1,2,4]triazole-3-carboxylic acid | C(C1=CC=CC=C1)N1N=C(N=C1)C(=O)O | C10H9N3O2
